US05008438
Methyl 2-(4-phenoxybut-1-yloxy)-phenylacetate
28.2 g (0.17 mole) of methyl 2-hydroxyphenylacetate, 25.8 g (0.19 mole) of potassium carbonate and 38.9 g (0.17 mole) of 4-phenoxybutyl bromide in 400 ml of dimethylformamide are stirred for 24 hours at 70° C. Thereafter, the solvent is stripped off and the residue is taken up in diethyl ether. The solution is extracted several times with water and saturated sodium carbonate solution and the organic phase is dried over MgSO4. The oil obtained after removal of the solvent is purified by chromatography over silica gel (cyclohexane/ethyl acetate). Yield: 31 g (58%).

reactant | methyl 2-hydroxyphenylacetate | 0.17 mole, 28.2 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | potassium carbonate | 0.19 mole, 25.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-phenoxybutyl bromide | 0.17 mole, 38.9 g | O(C1=CC=CC=C1)CCCCBr | C10H13BrO
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | Methyl 2-(4-phenoxybut-1-yloxy)-phenylacetate | O(C1=CC=CC=C1)CCCCOC1=C(C=CC=C1)CC(=O)OC | C19H22O4
